US07592373B2
3-(3-bromobiphenyl-4-yl)propynoic acid-[3-chloro-4-(2-diethylaminoethyl)phenyl]amide hydrochloride
Prepared analogously to Example 2.3.f. from (3-bromobiphenyl-4-yl)propynoic acid and 3-chloro-4-(2-diethylaminoethyl)phenylamine. Yield: 95 mg (23.8% of theory); C27H26BrClN2O*HCl (M=546.32); calc.: molecular ion peak (M+H)+: 509/11/13; found: molecular ion peak (M+H)+: 509/11/13; Rf value: 0.3 (silica gel, dichloromethane/methanol (90:10)).

reactant | (3-bromobiphenyl-4-yl)propynoic acid | BrC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9BrO2
reactant | 3-chloro-4-(2-diethylaminoethyl)phenylamine | ClC=1C=C(C=CC1CCN(CC)CC)N | C12H19ClN2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(3-bromobiphenyl-4-yl)propynoic acid-[3-chloro-4-(2-diethylaminoethyl)phenyl]amide hydrochloride | Cl.ClC=1C=C(C=CC1CCN(CC)CC)NC(C#CC1=C(C=C(C=C1)C1=CC=CC=C1)Br)=O | InChI=1S/C27H26BrClN2O.ClH/c1-3-31(4-2)17-16-22-12-14-24(19-26(22)29)30-27(32)15-13-21-10-11-23(18-25(21)28)20-8-6-5-7-9-20;/h5-12,14,18-19H,3-4,16-17H2,1-2H3,(H,30,32);1H
